US07691850B2
c) 6-({[((3S)-1-{(2S)-2-hydroxy-2-[6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinyl)methyl]amino}methyl)-2H-pyrido[3,2-b][1,4]thiazin-3(4H)-one
To a stirred solution of (1S)-2-[(3S)-3-(aminomethyl)-1-pyrrolidinyl]-1-[6-(methyloxy)-1,5-naphthyridin-4-yl]ethanol (72 mg, 0.24 mmole) in dry CH2Cl2 (25 mL) and dry EtOH (20 mL) at RT was added 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carbaldehyde (47 mg, 0.24 mmole). After 24 h at RT, was added NaBH4 (10 mg, 0.26 mmole). After 2 h, silica gel (5 g) was added to the reaction solution and the suspension was concentrated under vacuum to a dry solid. Purification on silica (CHCl3/MeOH, 9:1 containing 5% NH4OH) afforded the title compound (61 mg, 54%) as light yellow solid: 1H NMR (400 MHz, CDCl3) δ 8.81 (d, J=4.5 Hz, 1H), 8.23 (d, J=9.1 Hz, 1H), 7.84 (d, J=4.5 Hz, 1H), 7.56 (d, J=8.0 Hz, 1H), 7.12 (d, J=9.1 Hz, 1H), 6.92 (d, J=8.0 Hz, 1H), 5.74 (m, 1H), 4.04 (s, 3H), 3.82 (s, 2H), 3.46 (s, 2H), 3.00-3.11 (m, 1H), 2.58-2.83 (m, 6H), 2.33-2.58 (m, 1H), 2.01 (m, 2H), 1.65 (m, 1H). LC-MS (ES) m/e 481 (M+H)+.

reactant | (1S)-2-[(3S)-3-(aminomethyl)-1-pyrrolidinyl]-1-[6-(methyloxy)-1,5-naphthyridin-4-yl]ethanol | 0.24 mmole, 72 mg | NC[C@H]1CN(CC1)C[C@@H](O)C1=CC=NC2=CC=C(N=C12)OC | C16H22N4O2
reactant | 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carbaldehyde | 0.24 mmole, 47 mg | O=C1NC2=C(SC1)C=CC(=N2)C=O | C8H6N2O2S
reactant | NaBH4 | 0.26 mmole, 10 mg | [BH4-].[Na+]
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | EtOH | 20 mL | CCO | C2H6O
product | 6-({[((3S)-1-{(2S)-2-hydroxy-2-[6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinyl)methyl]amino}methyl)-2H-pyrido[3,2-b][1,4]thiazin-3(4H)-one | 61 mg, 54% | O[C@H](CN1C[C@@H](CC1)CNCC=1C=CC=2SCC(NC2N1)=O)C1=CC=NC2=CC=C(N=C12)OC | C24H28N6O3S
